US05464788
Methyl 2,4-dihydroxybenzoate (5.1 g, 30.33 mmol) and triphenylphosphine (9.52 g, 36.3 mmol) were stirred in THF (200 ml) under nitrogen. The mixture was cooled in an ice bath and treated with a solution of 1-Boc-4-hydroxypiperidine (6.8 g, 33.8 mmol) and diethyl azodicarboxylate (5.73 ml, 6.34 g, 36.4 mmol) in THF (100 ml) added dropwise over 30 min. The mixture was stirred at ambient temperature for 18 hours, then diluted with ethyl acetate and washed with 1M NaOH, saturated aqueous sodium bicarbonate, and brine. The organic layer was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with 10% ethyl acetate in hexane, and the product fractions were evaporated to dryness in vacuo to give methyl 2-hydroxy-4-(1-Boc-4-piperidyloxy)benzoate.

reactant | Methyl 2,4-dihydroxybenzoate | 30.33 mmol, 5.1 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | triphenylphosphine | 36.3 mmol, 9.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-Boc-4-hydroxypiperidine | 33.8 mmol, 6.8 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | diethyl azodicarboxylate | 36.4 mmol, 5.73 ml, 6.34 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-hydroxy-4-(1-Boc-4-piperidyloxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C18H25NO6
